### PR TITLE
[Merged by Bors] - chore(*): add `@[fun_prop]`

### PR DESCRIPTION
**Pull request by urkud**
Also use `fun_prop` here and there to golf proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 1]
```diff
@@ -234,22 +234,26 @@ section
 
 variable [TopologicalSpace α]
 
+@[fun_prop]
 theorem Continuous.vsub {f g : α → P} (hf : Continuous f) (hg : Continuous g) :
-    Continuous (f -ᵥ g) :=
+    Continuous (fun x ↦ f x -ᵥ g x) :=
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:239]: This form works better with `fun_prop`.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Inverse.lean [hunk 2]
```diff
@@ -365,7 +366,7 @@ theorem arccos_le_pi_div_four {x} : arccos x ≤ π / 4 ↔ √2 / 2 ≤ x := by
     · intro
       linarith
 
-@[continuity]
+@[continuity, fun_prop]
 theorem continuous_arccos : Continuous arccos :=
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Inverse.lean:370]: could you add the `ContinuousAt` version?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks for doing this!

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Inverse.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Inverse.lean:370]: `fun_prop` can use `Continuous` to prove `ContinuousAt`. I'll add the usual dot notation lemmas in another PR (added to my TODO list).

**Comment by urkud** [comment]
bors merge
